US04965367
1-Methyl-1-(diethylaminoxy)silacyclobutane
In accordance with the general procedure of Example 1, when 1-chloro-1-methylsilacyclobutane and methylvinylbis(diethylaminoxy)silane are reacted it is predicted that the title compound is formed.

reactant | 1-chloro-1-methylsilacyclobutane | Cl[Si]1(CCC1)C | C4H9ClSi
reactant | methylvinylbis(diethylaminoxy)silane | CC=C[SiH](ON(CC)CC)ON(CC)CC | C11H26N2O2Si
product | 1-Methyl-1-(diethylaminoxy)silacyclobutane | C[Si]1(CCC1)ON(CC)CC | C8H19NOSi
